US07601752B2
(2S,4S)-4-(9H-Fluoren-9-ylmethoxycarbonylamino)-2-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (160 mg) was dissolved in CH2Cl2 (2 ml) and piperidine (43 μl) was added. The mixture was stirred for 17 h at 25° C. The crude product was purified by chromatography (silica gel; gradient: CH2Cl2->methanol 2N NH3) to yield (2S,4S)-4-amino-2-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester as colorless amorphous solid (96 mg). MH+=417.5

reactant | (2S,4S)-4-(9H-Fluoren-9-ylmethoxycarbonylamino)-2-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 160 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F)=O | C36H35FN4O6
reactant | piperidine | 43 μl | N1CCCCC1 | C5H11N
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | (2S,4S)-4-amino-2-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 96 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)N)C(NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F)=O | C21H25FN4O4
